US04242510
EXAMPLE 11: 7-[2-(1,4-Benzoxathiin-2-yl)-2-methoxyiminoacetamido]-3-(1,3,4-thiadiazol-2-yl)thiomethyl-3-cephem-4-carboxylic acid (syn isomer)
2-(1,4-Benzoxathiin-2-yl)-2-methoxyiminoacetic acid (syn isomer, 0.85 g.) was allowed to react with 7-amino-3-(1,3,4-thiadiazol-2-yl)thiomethyl-3-cephem-4-carboxylic acid (1.09 g.) in a similar manner to that of Example 1 to give the captioned compound (1.50 g.), yellow powder, mp. 157° to 161° C. (dec.).

reactant | 2-(1,4-Benzoxathiin-2-yl)-2-methoxyiminoacetic acid | 0.85 g | O1C(=CSC2=C1C=CC=C2)C(C(=O)O)=NOC | C11H9NO4S
reactant | 7-amino-3-(1,3,4-thiadiazol-2-yl)thiomethyl-3-cephem-4-carboxylic acid | 1.09 g | NC1[C@@H]2N(C(=C(CS2)CSC=2SC=NN2)C(=O)O)C1=O | C10H10N4O3S3
product | 7-[2-(1,4-Benzoxathiin-2-yl)-2-methoxyiminoacetamido]-3-(1,3,4-thiadiazol-2-yl)thiomethyl-3-cephem-4-carboxylic acid | O1C(=CSC2=C1C=CC=C2)C(C(=O)NC2[C@@H]1N(C(=C(CS1)CSC=1SC=NN1)C(=O)O)C2=O)=NOC | C21H17N5O6S4
